US05366982
methyl 2,2-dimethyl-6-[(4,6-diphenyl-2-pyridyl)oxy]hexanoate
The procedure in Example 4 is followed but using 4,6-diphenyl-2-pyridinone (4 g), methyl 6-bromo-2,2-dimethylhexanoate (5.8 g) (prepared according to the method described in Patent EP 108 592), silver carbonate (2.3 g) and toluene (150 cc). The product is purified by chromatography under pressure on silica gel (30-60 mm; eluent: n-hexane-ethyl acetate 95-5, brown oil)

reactant | 4,6-diphenyl-2-pyridinone | 4 g | C1(=CC=CC=C1)C1=CC(NC(=C1)C1=CC=CC=C1)=O | C17H13NO
reactant | methyl 6-bromo-2,2-dimethylhexanoate | 5.8 g | BrCCCCC(C(=O)OC)(C)C | C9H17BrO2
catalyst | silver carbonate | 2.3 g | C([O-])([O-])=O.[Ag+2]
solvent | toluene | 150 cc | C1(=CC=CC=C1)C | C7H8
product | methyl 2,2-dimethyl-6-[(4,6-diphenyl-2-pyridyl)oxy]hexanoate | CC(C(=O)OC)(CCCCOC1=NC(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C | C26H29NO3
